US04075221
In the manner given in Example 1, a solution of 8-methylthio-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetrapropyldiaminomethane and trifluoroacetic anhydride (in 0.2 molar excess compared to the N,N,N',N'-tetrapropyldiaminomethane) are reacted together to give 8-methylthio-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-methylthio-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=NC=CC=C3)C1 | C17H15N5S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-methylthio-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(CCC)CCC)C3=NC=CC=C3)C1 | C24H30N6S
